US05068340
Diethyl 2-(5-methyl-3-isoxazolyloxy)malonate
A solution of 3.468 g of 3-hydroxy-5-methylisoxazole in 35 ml of hexamethylphosphoric triamide was added dropwise to a suspension of 1.527 g of sodium hydride (as a 55% w/w dispersion in mineral oil) in 20 ml of hexamethylphosphoric triamide, whilst ice-cooling. The mixture was then stirred at room temperature for an hour. A solution of 8.367 g of diethyl 2-bromomalonate in 35 ml of hexamethylphosphoric triamide was then added dropwise to the mixture, whilst cooling it with ice-water. The mixture was stirred at room temperature for 1 hour and then poured into ice-water. It was then extracted twice with ethyl acetate. The combined extracts were washed with water, dried and concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through 200 g of silica gel. 7.593 g of the title compound were isolated as an oily material from the fractions eluted with mixtures of ethyl acetate and hexane ranging from 1:10 to 15:100 by volume.

reactant | 3-hydroxy-5-methylisoxazole | 3.468 g | OC1=NOC(=C1)C | C4H5NO2
reactant | sodium hydride | 1.527 g | [H-].[Na+]
reactant | diethyl 2-bromomalonate | 8.367 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | hexamethylphosphoric triamide | 35 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric triamide | 20 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric triamide | 35 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | Diethyl 2-(5-methyl-3-isoxazolyloxy)malonate | 7.593 g | CC1=CC(=NO1)OC(C(=O)OCC)C(=O)OCC | C11H15NO6
